US04336369
4-Nitrophenyl 2-trifluoroacetylaminoethyl carbonate
17 g (0.108 mol) of 2-(trifluoroacetylamino)ethanol are dissolved in 210 ml of pyridine, 21 g of chloroformic acid 4-nitrophenyl ester are added and the mixture is left to stand overnight at room temperature. It is then concentrated, the residue is taken up in methylene chloride and the methylene chloride mixture is washed with ice-water and dried with Na2SO4. After evaporating off the solvent, 33 g of a light-colored oil are obtained.

reactant | 2-(trifluoroacetylamino)ethanol | 0.108 mol, 17 g | FC(C(=O)NCCO)(F)F | C4H6F3NO2
reactant | chloroformic acid 4-nitrophenyl ester | 21 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)Cl | C7H4ClNO4
solvent | pyridine | 210 ml | N1=CC=CC=C1 | C5H5N
product | 4-Nitrophenyl 2-trifluoroacetylaminoethyl carbonate | C(OC1=CC=C(C=C1)[N+](=O)[O-])(OCCNC(C(F)(F)F)=O)=O | C11H9F3N2O6
